US08067445B2
Step 4: 2-(3-Benzyloxy-5-trifluoromethyl-phenyl)-propionyl chloride
To a solution of 2-(3-benzyloxy-5-trifluoromethyl-phenyl)-propionic acid (1.4 g, 4.0 mmol) in CH2Cl2 was added oxalyl chloride (0.76 mL, 8.0 mmol), followed by 3 drops of DMF. After stirring for 15 minutes at room temperature, the mixture was concentrated to give the title compound.

reactant | 2-(3-benzyloxy-5-trifluoromethyl-phenyl)-propionic acid | 4.0 mmol, 1.4 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C(F)(F)F)C(C(=O)O)C | C17H15F3O3
reactant | oxalyl chloride | 8.0 mmol, 0.76 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 2-(3-Benzyloxy-5-trifluoromethyl-phenyl)-propionyl chloride | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)C | C17H14ClF3O2
